US05292758
2-[(4-methoxymethyloxyphenyl)amino]-3-nitropyridine
8.4 g (54.8 mmol) of 4-methoxymethyloxyaniline and 7.5 g (49 mmol) of 2-chloro-3-nitropyridine were dissolved in 35 ml of dimethylformamide. 7.6 g (55 mmol) of anhydrous potassium carbonate was added to the solution. The resulting solution was heated under stirring at 100° C. for 4 h. The reaction liquid was cooled to room temperature and an insoluble matter thus formed was removed by filtration. The solvent was distilled off under reduced pressure and the residue was dissolved in ethyl acetate. The solution was washed with an aqueous citric acid solution and then with water. After drying over magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was recrystallized from ethanol to obtain 9.68 g of the title compound.

reactant | 4-methoxymethyloxyaniline | 54.8 mmol, 8.4 g | COCOC1=CC=C(N)C=C1 | C8H11NO2
reactant | 2-chloro-3-nitropyridine | 49 mmol, 7.5 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 55 mmol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-[(4-methoxymethyloxyphenyl)amino]-3-nitropyridine | 9.68 g | COCOC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C13H13N3O4
